autockt_two_stage_sizing_v1 - controlled evaluation
.include "/home/cheriearjun/AnalogDesignRL/circuits/autockt_two_stage/netlist.spice"
.include "/home/cheriearjun/AnalogDesignRL/runs/verification_20260917_053953_878e3569/prior_solution_autockt_two_stage_sizing_seed2/parameters.spice"
.param mc_mm_switch=0 mc_pr_switch=0
.include "/home/cheriearjun/AnalogDesignRL/.deps/sky130_pdk/libs.tech/ngspice/corners/tt.spice"
.temp 27
VDD vdd 0 1.8

VIN signal 0 pulse(0.85 0.95 5e-06 1e-08 1e-08 2e-05 6e-05)
Xamp 0 vdd out signal out autockt_two_stage
CL out 0 1e-11
.control
set noaskquit
set numdgt=12
set wr_vecnames
set wr_singlescale

tran 5e-09 5e-05 0 5e-09
wrdata transient.tsv v(signal) v(out) i(vdd)

let check_rise_error = abs(v(out) - 0.95)
let check_fall_error = abs(v(out) - 0.85)
let check_tracking_error = abs(v(out) - v(signal))
meas tran check_rise_cross_result when check_rise_error=0.002 fall=last from=5e-06 to=2.5010000000000003e-05
meas tran check_fall_cross_result when check_fall_error=0.002 fall=last from=2.5010000000000003e-05 to=5e-05
meas tran check_tracking_before_result max check_tracking_error from=0 to=5e-06
meas tran check_tracking_high_result max check_tracking_error from=2.00075e-05 to=2.5010000000000003e-05
meas tran check_tracking_low_result max check_tracking_error from=4.3752500000000005e-05 to=5e-05

quit
.endc
.end
